US04255428
2-[2-(5-Methyl-4-imidazolylmethylthio)ethylamino]-5-(6-methoxy-3-pyridylmethyl)-4-pyrimidone (0.55 g) in 2N hydrogen chloride in ethanol was boiled under reflux for 24 hours. The mixture was evaporated to dryness and the residue was recrystallised from 2-propanol/ethanol containing hydrogen chloride to give 2-[2-(5-methyl-4-imidazolylmethylthio)ethylamino]-5-(6-hydroxy-3-pyridylmethyl)-4-pyrimidone trihydrochloride, m.p. 205-209° in 71% yield.

reactant | 2-[2-(5-Methyl-4-imidazolylmethylthio)ethylamino]-5-(6-methoxy-3-pyridylmethyl)-4-pyrimidone | 0.55 g | CC1=C(N=CN1)CSCCNC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)OC | C18H22N6O2S
reactant | hydrogen chloride | 2N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 2-[2-(5-methyl-4-imidazolylmethylthio)ethylamino]-5-(6-hydroxy-3-pyridylmethyl)-4-pyrimidone trihydrochloride | 71% yield | Cl.Cl.Cl.CC1=C(N=CN1)CSCCNC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)O | InChI=1S/C17H20N6O2S.3ClH/c1-11-14(22-10-21-11)9-26-5-4-18-17-20-8-13(16(25)23-17)6-12-2-3-15(24)19-7-12;;;/h2-3,7-8,10H,4-6,9H2,1H3,(H,19,24)(H,21,22)(H2,18,20,23,25);3*1H
